US05864039
4-Amino-N-(1-(5-aminopentyl)piperidin-4-ylmethyl)-5-chloro-2-methoxybenzamide (2 g) as starting compound and 4-fluorobenzaldehyde (0.71 g) were reacted and treated in the same manner as in Example 121 to give 2.3 g of 4-amino-5-chloro-N-((1-(5-(4-fluorobenzylamino)pentyl)-piperidin-4-yl)methyl)-2-methoxybenzamide.

reactant | 4-Amino-N-(1-(5-aminopentyl)piperidin-4-ylmethyl)-5-chloro-2-methoxybenzamide | 2 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCN)C=C1Cl)OC | C19H31ClN4O2
reactant | 4-fluorobenzaldehyde | 0.71 g | FC1=CC=C(C=O)C=C1 | C7H5FO
product | 4-amino-5-chloro-N-((1-(5-(4-fluorobenzylamino)pentyl)-piperidin-4-yl)methyl)-2-methoxybenzamide | 2.3 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCNCC2=CC=C(C=C2)F)C=C1Cl)OC | C26H36ClFN4O2
